US04699990
4-(Hexadecyloxy)-1-(triphenylmethoxy)-2-butanol
To a solution of 30 g of 4-(hexadecyloxy)-1,2-butanediol in 135 ml of dry pyridine was added 37.95 g of trityl chloride. The solution was allowed to stand under argon for 24 hours and was then poured into 700 ml of ice water and extracted three times with ether. The ether extracts were combined, washed with ice cold 5% hydrochloric acid, then saturated salt solution, dried and evaporated to dryness. The residue was mixed with petroleum ether, allowed to stand 72 hours, the solid removed and the mother liquor taken to dryness, giving 56.65 g of the desired compound as an oil.

reactant | 4-(hexadecyloxy)-1,2-butanediol | 30 g | C(CCCCCCCCCCCCCCC)OCCC(CO)O | C20H42O3
reactant | trityl chloride | 37.95 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | pyridine | 135 ml | N1=CC=CC=C1 | C5H5N
product | 4-(Hexadecyloxy)-1-(triphenylmethoxy)-2-butanol | 56.65 g | C(CCCCCCCCCCCCCCC)OCCC(COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C39H56O3
